US05001160
To a solution of 1 63 g (5 mmole) of 4-bromo-2-hydroxy-2-phenyl-1-piperidino-3-butanone in 35 mL of ether is added 1.76 g (5 mmole) of 4-benzylpiperazine. The solution is stirred at room temperature for 18 hours and then washed twice with brine dried over anhydrous sodium sulfate and the solvent removed under reduced pressure. Purification by flash column chromatography gives 2-hydroxy-2-phenyl-1-piperidino-4-(4-benzyl-1-piperazinyl)-3-butanone. This was converted into its hydrochloride salt in the usual manner.

reactant | 4-bromo-2-hydroxy-2-phenyl-1-piperidino-3-butanone | BrCC(C(CN1CCCCC1)(C1=CC=CC=C1)O)=O | C15H20BrNO2
reactant | 4-benzylpiperazine | 5 mmole, 1.76 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
solvent | ether | 35 mL | CCOCC | C4H10O
product | 2-hydroxy-2-phenyl-1-piperidino-4-(4-benzyl-1-piperazinyl)-3-butanone | OC(CN1CCCCC1)(C(CN1CCN(CC1)CC1=CC=CC=C1)=O)C1=CC=CC=C1 | C26H35N3O2
